US06051288
Then, 1.2 g (6.1 mmol) of 3,5-difluoro-4-trifluoromethyl-phenol, 0.7 ml of pyridine, and 2 ml of toluene were mixed. To this mixture was added dropwise 3 ml of toluene solution containing 6.1 mmol 2-fluoro-4-propylbenzoyl chloride at room temperature in 10 minutes. After the dropping was finished, they were reacted at 50° C. for 2 hours. After finishing of the reaction, 10 ml of water was added to the reaction product and then extracted with 30 ml of toluene. The organic layer thus obtained was washed with 6N-hydrochloric acid thrice, 2N-sodium hydroxide thrice, and water thrice, and then dried over anhydrous magnesium sulfate. Solvent was distilled off at a reduced pressure and the residue was subjected to a silica gel column chromatography (eluent: toluene) to obtain 2.0 g of a crude 3,5-difluoro-4-trifluormethylphenyl 2-fluoro-4-propylbenzoate. This product was recrystallized from a mixed solvent of heptane/ether (1/1) to obtain 1.1 g (yield: 50.2%) of the subject compound.

reactant | 3,5-difluoro-4-trifluoromethyl-phenol | 6.1 mmol, 1.2 g | FC=1C=C(C=C(C1C(F)(F)F)F)O | C7H3F5O
reactant | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-fluoro-4-propylbenzoyl chloride | 6.1 mmol | FC1=C(C(=O)Cl)C=CC(=C1)CCC | C10H10ClFO
solvent | water | 10 ml | O | H2O
product | 3,5-difluoro-4-trifluormethylphenyl 2-fluoro-4-propylbenzoate | 2.0 g | FC1=C(C(=O)OC2=CC(=C(C(=C2)F)C(F)(F)F)F)C=CC(=C1)CCC | C17H12F6O2
